US08293768B2
Synthesis of 2-(3-(benzo[c][1,2,5]oxadiazol-5-ylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as described in Example 14, making variations as required to replace ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate with ethyl 2-(3-(benzo[c][1,2,5]oxadiazol-5-ylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained as a colorless solid in 89% yield: MS (ES+) m/z 360.1 (M+1).

reactant | ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)OCC | C19H19F3N2O3S
reactant | ethyl 2-(3-(benzo[c][1,2,5]oxadiazol-5-ylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | N=1ON=C2C1C=CC(=C2)CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)OCC)=O | C17H17N5O4S
product | 2-(3-(benzo[c][1,2,5]oxadiazol-5-ylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 89% yield | N=1ON=C2C1C=CC(=C2)CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O | C15H13N5O4S
